US06127354
At 0° C., trifluoroacetic acid (1.5 ml) was added to a solution of N-((1R)-1-(N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl-ester (245 mg, 0.45 mmol) in dichloromethane (1.5 ml). The reaction mixture was stirred for 1.75 h at 0° C. Dichloromethane (5 ml) and a saturated aqueous solution of sodium hydrogen carbonate (6 ml) were added successively. Solid soidum hydrogen carbonate was added until pH 7 was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (30 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 155 mg of (2R)-N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide.

reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-((1R)-1-(N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl-ester | 0.45 mmol, 245 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C)=O)=O | C29H37N3O5S
reactant | sodium hydrogen carbonate | 6 ml | C(O)([O-])=O.[Na+]
reactant | hydrogen carbonate | C(O)([O-])=O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2R)-N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 155 mg | CS(=O)(=O)NC1=C(C=CC=C1)CCN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C24H29N3O3S
